US07297816B2
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-indan-2-yl-benzamide
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid was coupled with 2-aminoindane as in EXAMPLE 1, Part C. HPLC: RT=10.24 min. MS (ESI−): mass calcd. for C22H17ClN4O3S2, 484.04; m/z found, 483 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.64 (s, 1H), 8.37 (dd, J=7.0, 1.0, 1H), 8.23 (dd, J=8.8, 1.0, 1H), 7.72 (dd, J=8.8, 7.0, 1H), 7.72 (d, J=2.0, 1H), 7.28-7.19 (m, 4H), 7.14 (d, J=8.4, 1H), 6.89 (dd, J=8.4, 2.0, 1H), 6.12 (br d, J=7.5, 1H), 4.87-4.80 (m, 1H), 3.41 (dd, J=16.3, 7.0, 2H), 2.83 (dd, J=16.3, 3.9, 2H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Cl | C13H8ClN3O4S2
reactant | 2-aminoindane | NC1CC2=CC=CC=C2C1 | C9H11N
product | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-indan-2-yl-benzamide | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)NC1CC3=CC=CC=C3C1)C=CC(=C2)Cl | C22H17ClN4O3S2
